US07855292B2
B. (S)-2-(2-Amino-4-iodo-benzoylamino)-3-(3,4-dichloro-phenyl)-propionic acid methyl ester
A solution of 4-iodo-2-nitrobenzoic acid (0.35 g, 1.20 mmol) dissolved in SOCl2 (5 mL) was heated at reflux for 2 h. The mixture was concentrated and the resulting liquid was dissolved in DMF (5 mL). DMAP (161 mg, 1.32 mmol) and 2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride (0.37 g, 1.32 mmol) were added and the solution was stirred overnight at rt. The mixture was poured into water and extracted with EtOAc (3×). The organic layers were combined, dried (MgSO4), and concentrated to provide the crude product as a yellow oil. The oil was purified by flash chromatography (hexanes/EtOAc) to provide the product as a colorless oil (50%, 313 mg). 1H NMR (400 MHz, CDCl3): 7.59 (d, J=8.1, 2H), 7.37 (d, J=8.2, 1H), 7.28 (d, J=2.0, 1H), 7.18 (d, J=8.0, 1H), 7.04 (dd, J=8.2, 2.0, 1H), 6.49 (d, J=7.4, 1H), 5.10-5.04 (m, 1H), 3.81 (s, 3H), 3.33-3.17 (m, 2H).

reactant | 4-iodo-2-nitrobenzoic acid | 1.20 mmol, 0.35 g | IC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4INO4
reactant | 2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride | 1.32 mmol, 0.37 g | Cl.COC(C(CC1=CC(=C(C=C1)Cl)Cl)N)=O
reactant | water | O | H2O
solvent | SOCl2 | 5 mL | O=S(Cl)Cl | Cl2OS
catalyst | DMAP | 1.32 mmol, 161 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-2-(2-Amino-4-iodo-benzoylamino)-3-(3,4-dichloro-phenyl)-propionic acid methyl ester | 313 mg, 50% | COC([C@H](CC1=CC(=C(C=C1)Cl)Cl)NC(C1=C(C=C(C=C1)I)N)=O)=O | C17H15Cl2IN2O3
